US07812028B2
c) 6-Cyclopropylmethoxy-5-(3,4-difluoro-phenyl)-N-((trans)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to the Suzuki reaction procedure described for the preparation of Example 5a, from 5-Bromo-6-cyclopropylmethoxy-N-(trans-2-hydroxy-cyclohexyl)-nicotinamide and 3,4-difluorophenylboronic acid (commercially available). MS (ISP): 403.4 (M+H)+.

reactant | 5-Bromo-6-cyclopropylmethoxy-N-(trans-2-hydroxy-cyclohexyl)-nicotinamide | BrC=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC1CC1 | C16H21BrN2O3
reactant | 3,4-difluorophenylboronic acid | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 6-Cyclopropylmethoxy-5-(3,4-difluoro-phenyl)-N-((trans)-2-hydroxy-cyclohexyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC(=C(C=C1)F)F | C22H24F2N2O3
